US05320776
After 1.2 g of 4'-n-nonyloxybiphenyl-4-carboxylic acid was heated together with an excess amount of thionyl chloride for 6 hours under a reflux condition, unaltered thionyl chloride was distilled off to obtain 1.25 g of 4'-n-nonyloxybiphenyl-4-carboxylic acid chloride.

reactant | 4'-n-nonyloxybiphenyl-4-carboxylic acid | 1.2 g | C(CCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C22H28O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4'-n-nonyloxybiphenyl-4-carboxylic acid chloride | 1.25 g | C(CCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C22H27ClO2
